US09422279B2
To 3-((tert-butyldimethylsilyloxy)methyl)-2-(1-(3,3,3-trifluoropropyl)-1H-pyrazol-5-yl)pyridine (1.58 g, 4.1 mmol) in MeOH (20 mL) was added HCl (4 N, 4.0 mL). The mixture was stirred at RT for 1 h, concentrated, and diluted with EtOAc (50 mL) and NaHCO3(sat) solution (10 mL). The layers were separated and aqueous layer was extracted with EtOAc three times. The combined organic layers were dried over Na2SO4, and concentrated to give (2-(1-(3,3,3-trifluoropropyl)-1H-pyrazol-5-yl)pyridin-3-yl)methanol (1.1 g, 99%) as colorless oil. 1H NMR (400 MHz, CDCl3) δ 8.64 (dd, J=4.7, 1.7 Hz, 1H), 8.00 (dd, J=7.9, 1.7 Hz, 1H), 7.57 (d, J=1.9 Hz, 1H), 7.38 (dd, J=7.9, 4.8 Hz, 1H), 6.48 (d, J=1.9 Hz, 1H), 4.69 (s, 2H), 4.51-4.43 (m, 2H), 2.85-2.72 (m, 2H), 2.70 (s, 1H). MS (ESD m/z 272.1 [M+H]+.

reactant | 3-((tert-butyldimethylsilyloxy)methyl)-2-(1-(3,3,3-trifluoropropyl)-1H-pyrazol-5-yl)pyridine | 4.1 mmol, 1.58 g | [Si](C)(C)(C(C)(C)C)OCC=1C(=NC=CC1)C1=CC=NN1CCC(F)(F)F | C18H26F3N3OSi
reactant | HCl | 4 N, 4.0 mL | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | (2-(1-(3,3,3-trifluoropropyl)-1H-pyrazol-5-yl)pyridin-3-yl)methanol | 1.1 g, 99% | FC(CCN1N=CC=C1C1=NC=CC=C1CO)(F)F | C12H12F3N3O
